US09062056B2
(R)-3-[2-Cyclopropyl-7-(1,4-dimethyl-1H-indol-3-ylmethyl)-8-oxo-7,8-dihydro-purin-9-yl]-3-phenyl-propionic acid
(R)-3-[2-Cyclopropyl-7-(1,4-dimethyl-1H-indol-3-ylmethyl)-8-oxo-7,8-dihydro-purin-9-yl]-3-phenyl-propionic acid ethyl ester (130 mg, 0.255 mmol) was dissolved in THF (3 ml). To the solution a concentrated solution of LiOH in water (2 ml) was added. The mixture was stirred at room temperature for 1 hour. The reaction was monitored by TLC. The reaction mixture was neutralized with 1N HCl, and then extracted with ethyl acetate 3×. The organic layer was dried over MgSO4, filtered and evaporated to dryness. The white solid obtained was purified by prep TLC, eluded with 10% methanol in dichloromethane to give the title compound (52 mg, 43%). LCMS, M++1, m/z: 481.54

reactant | (R)-3-[2-Cyclopropyl-7-(1,4-dimethyl-1H-indol-3-ylmethyl)-8-oxo-7,8-dihydro-purin-9-yl]-3-phenyl-propionic acid ethyl ester | 0.255 mmol, 130 mg | C(C)OC(C[C@H](C1=CC=CC=C1)N1C2=NC(=NC=C2N(C1=O)CC1=CN(C2=CC=CC(=C12)C)C)C1CC1)=O | C30H31N5O3
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | (R)-3-[2-Cyclopropyl-7-(1,4-dimethyl-1H-indol-3-ylmethyl)-8-oxo-7,8-dihydro-purin-9-yl]-3-phenyl-propionic acid | 52 mg, 43% | C1(CC1)C1=NC=C2N(C(N(C2=N1)[C@H](CC(=O)O)C1=CC=CC=C1)=O)CC1=CN(C2=CC=CC(=C12)C)C | C28H27N5O3
